US07977362B2
A suspension of 4-chloro-N-(trans-2-hydroxymethylcyclopentyl)benzenesulfonamide (290 mg, 1.0 mmol), cesium carbonate (652 mg, 2.0 mmol), and α-bromo-p-tolunitrile (253 mg, 1.2 mmol) in 2 mL dimethylformamide was stirred for 2 h. The reaction was diluted into 50 mL ethyl acetate and extracted with brine. The organic layer was concentrated and purified by flash chromatography on a 40 g silica gel column using a gradient of 20 to 70% ethyl acetate in hexane over 25 min. to give 4-chloro-N-(4-cyanobenzyl)-N-(trans-2-(hydroxymethyl)cyclopentyl)benzenesulfonamide (327 mg, 81%). 1H NMR (400 MHz, CDCl3) δ ppm 7.71 (2H, d, J=8.56 Hz), 7.57-7.63 (2H, m), 7.49 (3H, dd, J=10.83, 8.31 Hz), 4.64 (1H, d, J=16.62 Hz), 4.16 (1H, d, J=16.62 Hz), 3.99-4.12 (1H, m), 3.37-3.62 (2H, m), 1.99 (1H, t, J=6.17 Hz), 1.32-1.71 (7H, m). LC/MS R.T.=2.77 min; [M+H]+=404.12. HRMS [M+H]+ calc'd 405.1040, found 405.1054.

reactant | 4-chloro-N-(trans-2-hydroxymethylcyclopentyl)benzenesulfonamide | 1.0 mmol, 290 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCC1)CO | C12H16ClNO3S
reactant | cesium carbonate | 2.0 mmol, 652 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | α-bromo-p-tolunitrile | 1.2 mmol, 253 mg | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-chloro-N-(4-cyanobenzyl)-N-(trans-2-(hydroxymethyl)cyclopentyl)benzenesulfonamide | 327 mg, 81% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@@H](CCC1)CO)CC1=CC=C(C=C1)C#N | C20H21ClN2O3S
